US05213606
Preparation of p-[(3,5-Dichloro-2-pyridyl)oxy]phenol
2,3,5-Trichloropyridine (69.32 g, 0.38 mol) and 18-crown-6 (4.0 g, 0.015 mol) are added to a mixture of the dipotassium salt of hydroquinone (prepared from hydroquinone (44.0 g, 0.4 mol) and potassium hydroxide (45.0 g, 0.8 mol)) in dimethyl sulfoxide (700 mL). The reaction mixture is stirred overnight at room temperature, heated at 60° C. for 21/2 hours, diluted with water and extracted with ether. The combined organic extracts are washed with water, treated with charcoal, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain the title product as a white solid (47.23 g, mp 122°-123.5° C.)

reactant | 2,3,5-Trichloropyridine | 0.38 mol, 69.32 g | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
reactant | hydroquinone | 0.4 mol, 44.0 g | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | dimethyl sulfoxide | 700 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
catalyst | 18-crown-6 | 0.015 mol, 4.0 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | p-[(3,5-Dichloro-2-pyridyl)oxy]phenol | 47.23 g | ClC=1C(=NC=C(C1)Cl)OC1=CC=C(C=C1)O | C11H7Cl2NO2
